US07700633B2
5-[6-Hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]-2,2-dimethylpentanoic acid
To a solution of 5-[6-Hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]-2,2-dimethylpentanoic acid methyl ester (50 mg, 0.12 mmol) in THF/MeOH/H2O (3:3:1 v/v/v, 1 mL,) is added NaOH (50 mg) and it is heated at 80° C. in microwave for 10 min. The solution is concentrated, dissolved in H2O and neutralized with 1N HCl solution. It is then purified by RP-HPLC to give the title compound as a light yellow solid: 1H NMR(CD3OD) δ1.17 (s, 6H), 1.29-1.35 (m, 5H), 1.39-1.41 (m, 2H), 1.60-1.70 (m, 1H), 1.90-1.94 (m 1H), 2.25-2.35 (m, 1H), 2.71-2.75 (m, 3H), 4.27 (s, 2H), 6.59 (s, 1H), 7.09 (s, 1H); (M−H)−=409.

reactant | 5-[6-Hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]-2,2-dimethylpentanoic acid methyl ester | 0.12 mmol, 50 mg | COC(C(CCCC1CC2=CC(=C(C=C2CC1)O)N1S(NC(C1)=O)(=O)=O)(C)C)=O | C20H28N2O6S
reactant | NaOH | 50 mg | [OH-].[Na+]
solvent | THF MeOH H2O | 1 mL | C1CCOC1.CO.O
product | 5-[6-Hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-1,2,3,4-tetrahydronaphthalen-2-yl]-2,2-dimethylpentanoic acid | OC=1C=C2CCC(CC2=CC1N1S(NC(C1)=O)(=O)=O)CCCC(C(=O)O)(C)C | C19H26N2O6S
